US07951838B2
Dess-Martin periodinane (18 g, 43 mmol) was added to a stirring mixture of 1-(3-(methoxymethoxy)pyridin-4-yl)ethanol (4.6 g, 25 mmol), NaHCO3 (6.3 g, 75 mmol), and CHCl3 (75 mL) at RT. After 24 h, 1.0 M aqueous Na2S2O3 was added, the reaction mixture was stirred for 90 min, partitioned between ethyl acetate and 1.0 M aqueous Na2S2O3, the layers were separated, the organic material was washed with 1.0 M aqueous Na2S2O3, water, brine, dried (Na2SO4), filtered, and the filtrate was concentrated. The residue was purified by flash chromatography on silica gel (gradient elution; 2:1→1:1 hexane-ethyl acetate) to give 3.9 g (86%) of 1-(3-(methoxymethoxy)pyridin-4-yl)ethanone as a clear yellow-orange oil.

reactant | Dess-Martin periodinane | 43 mmol, 18 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 1-(3-(methoxymethoxy)pyridin-4-yl)ethanol | 25 mmol, 4.6 g | COCOC=1C=NC=CC1C(C)O | C9H13NO3
reactant | NaHCO3 | 75 mmol, 6.3 g | C(=O)(O)[O-].[Na+]
reactant | Na2S2O3 | 1.0 M | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | CHCl3 | 75 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-(methoxymethoxy)pyridin-4-yl)ethanone | 3.9 g, 86% | COCOC=1C=NC=CC1C(C)=O | C9H11NO3
